US06660753B2
Using the general procedure for the preparation of acid chlorides, 3-cyano-5-nitrobenzoyl chloride was prepared from 3-cyano-5-nitrobenzoic acid (1.0 g, 5.1 mmol). A solution of the acid chloride in dichloromethane (5 mL) at 0° C. was treated with pyrid-2-ylamidoxime (700 mg, 5.1 mMol) and triethylamine (2.1 mL, 15.3 mmol) and then stirred at ambient temperature for 1 hour. The reaction mixture was washed with water and saturated brine, dried over anhydrous sodium sulfate, filtered, and concentrated. The residue was dissolved in N,N-dimethylformamide (5 mL) and heated at 110° C. for 4 hours. Standard work up and silica gel chromatography using hexanes:ethyl acetate:dichloromethane (3.5:0.5:4) afforded 149 mg (50%) of 3-(2-pyridyl)-5-(3-cyano-5-nitrophenyl)-1,2,4-oxadiazole: 1H NMR (CDCl3), 6 (ppm): 9.35 (d, 1H), 8.91 (s, 1H), 8.89 (d, 1H), 8.75 (s,1H), 8.26 (d, 1H), 7.94 (m, 1H), 7.53 (m, 1H).

reactant | 3-cyano-5-nitrobenzoyl chloride | C(#N)C=1C=C(C(=O)Cl)C=C(C1)[N+](=O)[O-] | C8H3ClN2O3
reactant | 3-cyano-5-nitrobenzoic acid | 5.1 mmol, 1.0 g | C(#N)C=1C=C(C(=O)O)C=C(C1)[N+](=O)[O-] | C8H4N2O4
reactant | triethylamine | 15.3 mmol, 2.1 mL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | 3-(2-pyridyl)-5-(3-cyano-5-nitrophenyl)-1,2,4-oxadiazole | 149 mg, 50% | N1=C(C=CC=C1)C1=NOC(=N1)C1=CC(=CC(=C1)[N+](=O)[O-])C#N | C14H7N5O3
